US08217029B2
179.i) 1-(6-Fluoro-quinolin-4-yl)-piperidin-4-ylamine
Starting from 4-bromo-6-fluoroquinoline (commercial) and piperidin-4-yl-carbamic acid tert-butyl ester (commercial) the title compound was prepared according to procedure F followed by procedure E and was isolated as a yellow solid (223 mg, 40% over two steps).

reactant | 4-bromo-6-fluoroquinoline | BrC1=CC=NC2=CC=C(C=C12)F | C9H5BrFN
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
product | 1-(6-Fluoro-quinolin-4-yl)-piperidin-4-ylamine | FC=1C=C2C(=CC=NC2=CC1)N1CCC(CC1)N | C14H16FN3
